US09212182B2
A RBF was charged with (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-2-methoxy-5-methylphenyl)amino)phenyl)acrylate (5.12 g, 9.99 mmol) and MeOH (50.0 ml) to give a yellow suspension. Sodium methoxide (25 wt % in MeOH) (0.432 ml, 1.998 mmol) was added. A reflux condenser was attached, and the flask was lowered into a 70° C. heating bath. After 1 h, additional portions of MeOH (25 mL) and sodium methoxide solution (ca. 0.85 mL) were added in sequence. After 7 h, the mixture was cooled and concentrated under vacuum. The residue was purified by chromatography on silica gel (80-g Redi-Sep column, 25-g silica gel loading column, loaded as a solution in MeOH-DCM, then eluted with 25-75% EtOAc/Heptane containing 10% DCM). The fractions containing product were combined and concentrated to give 6-(benzylthio)-1-(4-bromo-2-methoxy-5-methylphenyl)quinolin-2(1H)-one (4.233 g, 9.08 mmol, 91% yield) as a tan solid. m/z (ESI) 466.1 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-2-methoxy-5-methylphenyl)amino)phenyl)acrylate | 9.99 mmol, 5.12 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)C)Br)OC | C26H26BrNO3S
reactant | Sodium methoxide | 1.998 mmol, 0.432 ml | C[O-].[Na+]
reactant | sodium methoxide | ca. 0.85 mL | C[O-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeOH | 50.0 ml | CO | CH4O
product | 6-(benzylthio)-1-(4-bromo-2-methoxy-5-methylphenyl)quinolin-2(1H)-one | 9.08 mmol, 4.233 g, 91% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)C)Br)OC)=O | C24H20BrNO2S
